2111-01-25 08:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis,
   ESRD, DM, CAD s/p perioperative MI and PVD who was admitted for
   worsening PVD, underwent left brachial to radial bypass on [**2111-1-12**]
   complicated by perioperative MI, was transferred to medicine of
   comorbidities, and is now transferred to MICU for management of
   hypotension and question sepsis.
   24 Hour Events:
 MULTI LUMEN - START [**2111-1-24**] 03:18 PM
 MULTI LUMEN - STOP [**2111-1-24**] 06:41 PM
 FEVER - 103.9
F - [**2111-1-24**] 07:00 AM
   - attempted CVVH; but BPs very low once initiated so stopped, will
   retry in AM
   - RIJ placed, but on CXR was in subclavian so it was pulled
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-1-25**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-24**] 11:50 AM
   Heparin Sodium (Prophylaxis) - [**2111-1-24**] 08:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-25**] 08:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 38.9
C (102
   Tcurrent: 36.6
C (97.9
   HR: 91 (88 - 112) bpm
   BP: 98/44(58) {79/42(50) - 124/72(79)} mmHg
   RR: 20 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
    CVP: 11 (8 - 23)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  1,173 mL
                                                                    214 mL
   PO:
   TF:
   IVF:
                                                                    913 mL
                                                                    214 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                     36 mL
                                                                      0 mL
   Urine:
                                                                     36 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,137 mL
                                                                    214 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 9.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   8.0 g/dL
   75 mg/dL
   4.2 mg/dL
   23 mEq/L
   4.8 mEq/L
   47 mg/dL
   105 mEq/L
   144 mEq/L
   26.8 %
   19.1 K/uL
        [image002.jpg]
                             [**2111-1-23**]  06:19 PM
                             [**2111-1-23**]  07:10 PM
                             [**2111-1-23**]  08:20 PM
                             [**2111-1-23**]  08:29 PM
                             [**2111-1-23**]  09:44 PM
                             [**2111-1-24**]  02:20 AM
                             [**2111-1-24**]  05:32 AM
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
   WBC
   10.4
   8.0
   17.3
   19.1
   Hct
   33.7
   30.3
   27.3
   26.8
   Plt
   295
   262
   290
   252
   Cr
   3.7
   3.5
   4.0
   3.9
   4.2
   TropT
   3.34
   2.90
   3.64
   3.30
   TCO2
   29
   27
   27
   24
   Glucose
   185
   136
   111
   119
   75
   Other labs: PT / PTT / INR:17.0/32.8/1.5, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**6-26**], Alk Phos / T Bili:63/0.3,
   Differential-Neuts:94.3 %, Band:1.0 %, Lymph:2.6 %, Mono:2.4 %, Eos:0.4
   %, Lactic Acid:0.8 mmol/L, LDH:103 IU/L, Ca++:9.4 mg/dL, Mg++:2.1
   mg/dL, PO4:4.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and question sepsis.
   # Respiratory failure:  Was hypoxic on floor and hypercapneic on
   arrival to unit in setting of somnolence.  ABG with acute respiratory
   acidosis, acidemia, likely aggravated by large abdomen, pleural
   effusions, muscular weakness from critical illness, and underlying lung
   disease from smoking history, though does not carry copd diagnosis.
   Also with productive cough developing during hospitalization c/f pna.
   Intubated after failing trial of bipap.  Improved with 1.6L
   paracentesis.
   - cont to weane vent
   - vanc/zosyn
   - will consider repeat therapeutic para if needed to reduce
   intra-abdominal pressures and improve respiratory mechanics
   - SBT
   # Sepsis/hypotension:  Meets SIRS criteria with tachycardia,
   leukocytosis, and periotneal cavity as likely source.  Positive for SBP
   on tap on [**2111-1-23**] prior to transfer.  Other sources of infection include
   pneumonia (productive sputum), lines (R subclav, L subclav HD), skins
   (cellulitis around graft site), and UTI (purulent material drained
   after foley placement).  Decreased venous return may also be
   contributing given ascites.  Dressings for lines last changed on [**2111-1-17**]
   (triple lumen) and [**2111-1-21**] (HD).  Urine cx with GNRs.
   - MAPs > 60, SVO2 > 70%
   - albumin 25 mg IV bolus
   - vanc/zosyn; consider linezolid if decompensates given history of VRE
   - sputum, urine, blood, stool cultures
   - will attempt to resite CVL, place a-line
   - check bladder pressure q6h
   - consider tap if pressures improve
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular reccs
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin for volume expansion
   - will consider paracentesis if bladder pressure increases
   - lactulose
   - liver reccs
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH today
   - renal reccs
   ICU Care
   Nutrition:
   Comments: TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-1-23**] 07:44 PM
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-01-26 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis,
   ESRD, DM, CAD s/p perioperative MI and PVD who was admitted for
   worsening PVD, underwent left brachial to radial bypass on [**2111-1-12**]
   complicated by perioperative MI, was transferred to medicine of
   comorbidities, and is now transferred to MICU for management of
   hypotension and question sepsis.
   24 Hour Events:
   -- miserable failed attempt at placing brachial a-line
   -- patient underwent CVVH throughout day w/o need for pressors, but
   nothing was taken off
   -- talked to renal, okay to run neg 100cc/hr, has been tolerating last
   few hrs
   -- left of PSV as didn't change fluid status
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-1-25**] 06:00 AM
   Vancomycin - [**2111-1-25**] 02:03 PM
   Meropenem - [**2111-1-26**] 04:00 AM
   Infusions:
   Fentanyl (Concentrate) - 37.5 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-25**] 08:04 AM
   Heparin Sodium (Prophylaxis) - [**2111-1-25**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-26**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.1
C (96.9
   HR: 93 (88 - 104) bpm
   BP: 107/55(68) {95/43(58) - 121/66(75)} mmHg
   RR: 19 (19 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
    CVP: 12 (6 - 23)mmHg
   Bladder pressure: 15 (15 - 16) mmHg
   Total In:
                                                                  1,471 mL
                                                                    430 mL
   PO:
   TF:
   IVF:
                                                                  1,311 mL
                                                                    430 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    978 mL
                                                                  1,347 mL
   Urine:
                                                                     23 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    493 mL
                                                                   -917 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 35 cmH2O
   Plateau: 33 cmH2O
   SpO2: 99%
   ABG: 7.29/43/37/21/-6
   Ve: 8 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: )
   Abdominal: Soft
   Musculoskeletal: aka, bka
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   250 K/uL
   8.3 g/dL
   90 mg/dL
   2.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   28 mg/dL
   108 mEq/L
   143 mEq/L
   28.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2111-1-23**]  08:29 PM
                             [**2111-1-23**]  09:44 PM
                             [**2111-1-24**]  02:20 AM
                             [**2111-1-24**]  05:32 AM
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
                             [**2111-1-25**]  09:33 AM
                             [**2111-1-25**]  04:03 PM
                             [**2111-1-26**]  01:12 AM
                             [**2111-1-26**]  04:28 AM
   WBC
   17.3
   19.1
   13.8
   Hct
   27.3
   26.8
   28.2
   Plt
   290
   252
   250
   Cr
   4.0
   3.9
   4.2
   4.3
   3.6
   2.7
   TropT
   3.64
   3.30
   TCO2
   27
   27
   24
   22
   Glucose
   111
   119
   75
   87
   96
   90
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: [**2111-1-23**] 6:53 pm URINE      Source:
   Catheter.
      URINE CULTURE (Preliminary):
         KLEBSIELLA PNEUMONIAE.    >100,000 ORGANISMS/ML..
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                KLEBSIELLA PNEUMONIAE
                                |
   AMIKACIN--------------    16 S
   AMPICILLIN/SULBACTAM--  =>32 R
   CEFAZOLIN-------------  =>64 R
   CEFTAZIDIME-----------  =>64 R
   CIPROFLOXACIN---------   =>4 R
   GENTAMICIN------------  =>16 R
   MEROPENEM-------------<=0.25 S
   NITROFURANTOIN--------    64 I
   PIPERACILLIN/TAZO----- =>128 R
   TOBRAMYCIN------------  =>16 R
   TRIMETHOPRIM/SULFA----  =>16 R
   [**2111-1-23**] 3:00 pm PERITONEAL FLUID
      GRAM STAIN (Final [**2111-1-23**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Microbiology: [**2111-1-24**] 6:26 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2111-1-24**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
         1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         YEAST.    HEAVY GROWTH.
         YEAST.    SPARSE GROWTH.  SECOND MORPHOLOGY.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and question sepsis.
   # Respiratory failure:  Was hypoxic on floor and hypercapneic on
   arrival to unit in setting of somnolence.  ABG with acute respiratory
   acidosis, acidemia, likely aggravated by large abdomen, pleural
   effusions, muscular weakness from critical illness, and underlying lung
   disease from smoking history, though does not carry copd diagnosis.
   Also with productive cough developing during hospitalization c/f pna.
   Intubated after failing trial of bipap.  Improved with 1.6L
   paracentesis.
   - cont to wean vent
   - vanc. will change zosyn to meropenem given resp failure
   - will consider repeat therapeutic para if needed to reduce
   intra-abdominal pressures and improve respiratory mechanics- currently
   bladder pressures 15
   - SBT
   - attempt volume off for improved oxygenation via CVVH
   # Sepsis/hypotension:  Meets SIRS criteria with tachycardia,
   leukocytosis, and periotneal cavity as likely source.  Positive for SBP
   on tap on [**2111-1-23**] prior to transfer.  Other sources of infection include
   pneumonia (productive sputum), lines (R subclav, L subclav HD), skins
   (cellulitis around graft site), and UTI (purulent material drained
   after foley placement).  Decreased venous return may also be
   contributing given ascites.  Dressings for lines last changed on [**2111-1-17**]
   (triple lumen) and [**2111-1-21**] (HD).  Urine cx with Klebsiella.
   - MAPs > 60, SVO2 > 70%
   - albumin 25 mg IV bolus
   - antibiotics as above; consider linezolid if decompensates given
   history of VRE
   - sputum, blood cx pending
   - check bladder pressure q12
   - consider tap if pressures improve
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular reccs
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin for volume expansion
   - will consider paracentesis if bladder pressure increases
   - lactulose
   - liver reccs
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH today- attempt fluid off as tolerated
   - renal reccs
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-1-23**] 07:44 PM
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: ppi
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU

2111-01-26 11:18:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypotension, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -attempted aline placement
   -CVVH started
   -pressors started
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-1-25**] 06:00 AM
   Meropenem - [**2111-1-26**] 04:00 AM
   Vancomycin - [**2111-1-26**] 10:00 AM
   Infusions:
   Fentanyl (Concentrate) - 37.5 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-1-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-26**] 11:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 94 (88 - 104) bpm
   BP: 87/45(54) {87/43(54) - 121/66(75)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
   CVP: 8 (6 - 23)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
                                Total In:
                                                                  1,472 mL
                                                                  1,040 mL
   PO:
                                TF:
   IVF:
                                                                  1,312 mL
                                                                    990 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                    978 mL
                                                                  1,897 mL
   Urine:
                                                                     23 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    494 mL
                                                                   -857 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 525 (525 - 525) mL
   PS : 15 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 34 cmH2O
   Plateau: 33 cmH2O
   SpO2: 97%
   ABG: 7.29/43/37/21/-6
   Ve: 11.7 L/min
   PaO2 / FiO2: 92
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: aka bka
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   250 K/uL
   90 mg/dL
   2.7 mg/dL
   21 mEq/L
   4.7 mEq/L
   28 mg/dL
   108 mEq/L
   143 mEq/L
   28.2 %
   13.8 K/uL
        [image002.jpg]
                             [**2111-1-23**]  08:29 PM
                             [**2111-1-23**]  09:44 PM
                             [**2111-1-24**]  02:20 AM
                             [**2111-1-24**]  05:32 AM
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
                             [**2111-1-25**]  09:33 AM
                             [**2111-1-25**]  04:03 PM
                             [**2111-1-26**]  01:12 AM
                             [**2111-1-26**]  04:28 AM
   WBC
   17.3
   19.1
   13.8
   Hct
   27.3
   26.8
   28.2
   Plt
   290
   252
   250
   Cr
   4.0
   3.9
   4.2
   4.3
   3.6
   2.7
   TropT
   3.64
   3.30
   TCO2
   27
   27
   24
   22
   Glucose
   111
   119
   75
   87
   96
   90
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:8.6 mg/dL, Mg++:2.3 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   55M HCV cirrhosis, ESRD, DM, CAD s/p perioperative MI and PVD admitted
   for worsening PVD, underwent left brachial to radial bypass on [**2111-1-12**]
   c/b perioperative [**Hospital **] transferred to MICU hypotension and ? sepsis
   # Respiratory failure:
   - cont to wean vent
   - vanc / meropenem pending cx data guidance
   - will consider repeat therapeutic para if needed to improve
   respiratory mechanics
   # Sepsis/hypotension:
   -started back on pressors
   -Positive for SBP on tap on [**2111-1-23**] prior to transfer
   -Other possibilities include pneumonia, CVL, skin, and UTI (purulent
   material drained after foley placement).
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   # HCV cirrhosis/Liver mass:
   -Has cirrhosis and ascites with 4L tap on [**1-13**] associated with
   hypotension and NSTEMI.
   -History of HCV treatment at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US
   [**2110-1-20**] concerning for HCC.  Normal AFP; plan for repeat u/s in 3 months
   per liver.
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
    # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH today
   - renal reccs
    Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-1-23**] 07:44 PM
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2111-01-27 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - on levophed in morning but off for rest of day
   - a lot of fluid removed with cvvh
   - went down on ps 15 -> 10, did well
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-1-25**] 06:00 AM
   Vancomycin - [**2111-1-26**] 10:00 AM
   Meropenem - [**2111-1-27**] 12:10 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1 grams/hour
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 37.5 mcg/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2111-1-26**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-1-26**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-27**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.1
C (97
   HR: 97 (75 - 102) bpm
   BP: 100/51(62) {87/43(54) - 132/72(79)} mmHg
   RR: 16 (11 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
    CVP: 5 (4 - 14)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
   Total In:
                                                                  2,480 mL
                                                                    995 mL
   PO:
   TF:
                                                                    155 mL
                                                                    155 mL
   IVF:
                                                                  2,115 mL
                                                                    640 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,007 mL
                                                                  1,892 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,527 mL
                                                                   -897 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 525 (449 - 564) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 30
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 7.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   9.1 g/dL
   94 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.1 mEq/L
   15 mg/dL
   105 mEq/L
   140 mEq/L
   31.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2111-1-24**]  02:20 AM
                             [**2111-1-24**]  05:32 AM
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
                             [**2111-1-25**]  09:33 AM
                             [**2111-1-25**]  04:03 PM
                             [**2111-1-26**]  01:12 AM
                             [**2111-1-26**]  04:28 AM
                             [**2111-1-26**]  11:11 PM
                             [**2111-1-27**]  04:52 AM
   WBC
   17.3
   19.1
   13.8
   9.9
   Hct
   27.3
   26.8
   28.2
   31.7
   Plt
   290
   252
   250
   201
   Cr
   4.0
   3.9
   4.2
   4.3
   3.6
   2.7
   1.6
   TropT
   3.64
   3.30
   TCO2
   24
   22
   Glucose
   111
   119
   75
   87
   96
   90
   82
   94
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and question sepsis.
   # Respiratory failure:  Was hypoxic on floor and hypercapneic on
   arrival to unit in setting of somnolence.  ABG with acute respiratory
   acidosis, acidemia, likely aggravated by large abdomen, pleural
   effusions, muscular weakness from critical illness, and underlying lung
   disease from smoking history, though does not carry copd diagnosis.
   Also with productive cough developing during hospitalization c/f pna.
   Intubated after failing trial of bipap.  Improved with 1.6L
   paracentesis.
   - cont to wean vent
   - vanc. will change zosyn to meropenem given resp failure
   - will consider repeat therapeutic para if needed to reduce
   intra-abdominal pressures and improve respiratory mechanics- currently
   bladder pressures 15
   - SBT
   - attempt volume off for improved oxygenation via CVVH
   # Sepsis/hypotension:  Meets SIRS criteria with tachycardia,
   leukocytosis, and periotneal cavity as likely source.  Positive for SBP
   on tap on [**2111-1-23**] prior to transfer.  Other sources of infection include
   pneumonia (productive sputum), lines (R subclav, L subclav HD), skins
   (cellulitis around graft site), and UTI (purulent material drained
   after foley placement).  Decreased venous return may also be
   contributing given ascites.  Dressings for lines last changed on [**2111-1-17**]
   (triple lumen) and [**2111-1-21**] (HD).  Urine cx with Klebsiella.
   - MAPs > 60, SVO2 > 70%
   - albumin 25 mg IV bolus
   - antibiotics as above; consider linezolid if decompensates given
   history of VRE
   - sputum, blood cx pending
   - check bladder pressure q12
   - consider tap if pressures improve
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular reccs
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin for volume expansion
   - will consider paracentesis if bladder pressure increases
   - lactulose
   - liver reccs
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH today- attempt fluid off as tolerated
   - renal reccs
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 .H/O ACIDOSIS, RESPIRATORY
 SHOCK, SEPTIC
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2111-1-26**] 04:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-1-23**] 07:44 PM
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-01-27 11:44:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypotension, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 Extubated just prior to rounding on pt
[**Name (NI) **] weaned off
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2111-1-25**] 06:00 AM
   Vancomycin - [**2111-1-26**] 10:00 AM
   Meropenem - [**2111-1-27**] 07:30 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-26**] 08:30 PM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-27**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 104 (75 - 104) bpm
   BP: 123/55(72) {89/40(56) - 124/72(80)} mmHg
   RR: 26 (11 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
   CVP: 5 (4 - 14)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
                                Total In:
                                                                  2,480 mL
                                                                  1,595 mL
   PO:
                                TF:
                                                                    155 mL
                                                                    222 mL
   IVF:
                                                                  2,115 mL
                                                                  1,144 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,007 mL
                                                                  2,834 mL
   Urine:
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,527 mL
                                                                 -1,239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 509 (449 - 564) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 30
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 10 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: aka, bka
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   201 K/uL
   94 mg/dL
   1.6 mg/dL
   19 mEq/L
   4.0 mEq/L
   15 mg/dL
   105 mEq/L
   140 mEq/L
   31.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2111-1-24**]  02:20 AM
                             [**2111-1-24**]  05:32 AM
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
                             [**2111-1-25**]  09:33 AM
                             [**2111-1-25**]  04:03 PM
                             [**2111-1-26**]  01:12 AM
                             [**2111-1-26**]  04:28 AM
                             [**2111-1-26**]  11:11 PM
                             [**2111-1-27**]  04:52 AM
   WBC
   17.3
   19.1
   13.8
   9.9
   Hct
   27.3
   26.8
   28.2
   31.7
   Plt
   290
   252
   250
   201
   Cr
   4.0
   3.9
   4.2
   4.3
   3.6
   2.7
   1.6
   TropT
   3.64
   3.30
   TCO2
   24
   22
   Glucose
   111
   119
   75
   87
   96
   90
   82
   94
   Other labs: PT / PTT / INR:13.3/33.5/1.1, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   55M HCV cirrhosis, ESRD, DM, CAD s/p perioperative MI and PVD admitted
   for worsening PVD, underwent left brachial to radial bypass on [**2111-1-12**]
   c/b perioperative [**Hospital **] transferred to MICU hypotension and ? sepsis
   # Respiratory failure:
   - able to extubate after volume removed
   - doing well post extubation
   # Sepsis/hypotension:
   -able to wean off pressors
   -SBP on tap on [**2111-1-23**]
   -Other possibilities include pneumonia, CVL, skin, and UTI (purulent
   material drained after foley placement)
   -cx data - ESBL Klebsiella from urine
   -albumin
   # severe PVD
   -Left brachial to radial bypass
   -R BKA, L AKA.
    # HCV cirrhosis/Liver mass:
   -4L tap on [**1-13**] -- associated with hypotension and NSTEMI.
   -1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for HCC
           -AFP is normal; plan for repeat u/s in 3 months per liver.
    # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # cellulitis
   -cont vanc
   # ESRD:
   - Last HD on [**2111-1-21**]
   - MWF schedule.
   - CVVH - possibly
   - renal following.
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-1-23**] 07:44 PM
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2111-01-28 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated, doing great on nasal cannula
   - was off pressors all day, taken off CVVH
   - BP dropped at around 8 PM, was given 25 gm albumin without much
   improvement, started back on levophed and attempted to wean down, no
   mental status changes with low BPs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-27**] 11:00 AM
   Meropenem - [**2111-1-28**] 07:47 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-27**] 08:00 PM
   Morphine Sulfate - [**2111-1-28**] 03:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-28**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 108 (98 - 120) bpm
   BP: 120/66(79) {79/38(48) - 138/78(83)} mmHg
   RR: 21 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
    CVP: 8 (4 - 8)mmHg
   Bladder pressure: 15 (15 - 15) mmHg
                                Total In:
                                                                  2,339 mL
                                                                    331 mL
   PO:
                                TF:
                                                                    222 mL
   IVF:
                                                                  1,787 mL
                                                                    331 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,408 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,069 mL
                                                                    331 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 509 (509 - 509) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 10 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   277 K/uL
   9.0 g/dL
   139 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.4 mEq/L
   17 mg/dL
   106 mEq/L
   141 mEq/L
   30.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2111-1-24**]  05:32 AM
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
                             [**2111-1-25**]  09:33 AM
                             [**2111-1-25**]  04:03 PM
                             [**2111-1-26**]  01:12 AM
                             [**2111-1-26**]  04:28 AM
                             [**2111-1-26**]  11:11 PM
                             [**2111-1-27**]  04:52 AM
                             [**2111-1-28**]  05:19 AM
   WBC
   17.3
   19.1
   13.8
   9.9
   10.2
   Hct
   27.3
   26.8
   28.2
   31.7
   30.7
   Plt
   290
   252
   250
   201
   277
   Cr
   4.0
   3.9
   4.2
   4.3
   3.6
   2.7
   1.6
   2.0
   TropT
   3.64
   3.30
   TCO2
   22
   Glucose
   111
   119
   75
   87
   96
   90
   82
   94
   139
   Other labs: PT / PTT / INR:12.9/30.0/1.1, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: Heart is enlarged. Patchy opacities at both lung bases,
   left greater than
   right, indicating volume loss as well as possible superadded infection.
   No
   frank congestive heart failure is seen. Support lines including ET
   tube, NG
   tube, right subclavian line, and large left-sided central catheter are
   without
   change from yesterday's examination.
   Microbiology:   >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   BUDDING YEAST WITH PSEUDOHYPHAE.
         1+    (<1 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Final [**2111-1-26**]):
         SPARSE GROWTH Commensal Respiratory Flora.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         YEAST.    HEAVY GROWTH.
         YEAST.    SPARSE GROWTH.  SECOND MORPHOLOGY.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and urosepsis.
   # Respiratory failure:  Was hypoxic on floor and hypercapneic on
   arrival to unit in setting of somnolence.  ABG with acute respiratory
   acidosis, acidemia, likely aggravated by large abdomen, pleural
   effusions, muscular weakness from critical illness, and underlying lung
   disease from smoking history, though does not carry copd diagnosis.
   Improved with 1.6L paracentesis.
   -  Extubated this morning.
   - cont vanc/meropenem for urosepsis
   - continue with volume off on CVVH goal -1 to -2L/day
   - daily bladder pressures
   # Sepsis/hypotension:  Has urosepsis and positive for SBP on tap on
   [**2111-1-23**] prior to transfer.
   - maintain MAPs > 60, SVO2 > 70%
   - cont vanoc/meropenem, needs 7 day course; consider linezolid if
   decompensates given history of VRE
   - f/u sputum, blood cx
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular recs
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin PRN for volume expansion
   - will consider paracentesis if bladder pressure increases
   - lactulose
   - liver recs
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH - attempt fluid off as tolerated
   - renal recs
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2111-1-23**] 07:44 PM
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-01-28 11:08:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2111-1-27**] 11:15 AM
 BP dropped 20:00 yesterday - given albumin
 restarted on levophed for [**Month (only) 453**] BP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-27**] 11:00 AM
   Meropenem - [**2111-1-28**] 07:47 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-27**] 08:00 PM
   Morphine Sulfate - [**2111-1-28**] 09:43 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-28**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 102 (93 - 120) bpm
   BP: 91/72(76) {75/38(48) - 138/81(85)} mmHg
   RR: 19 (3 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
   CVP: 5 (4 - 8)mmHg
   Total In:
                                                                  2,339 mL
                                                                    369 mL
   PO:
   TF:
                                                                    222 mL
   IVF:
                                                                  1,787 mL
                                                                    369 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  3,408 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,069 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: bka, aka
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   277 K/uL
   139 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.4 mEq/L
   17 mg/dL
   106 mEq/L
   141 mEq/L
   30.7 %
   10.2 K/uL
        [image002.jpg]
                             [**2111-1-24**]  05:32 AM
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
                             [**2111-1-25**]  09:33 AM
                             [**2111-1-25**]  04:03 PM
                             [**2111-1-26**]  01:12 AM
                             [**2111-1-26**]  04:28 AM
                             [**2111-1-26**]  11:11 PM
                             [**2111-1-27**]  04:52 AM
                             [**2111-1-28**]  05:19 AM
   WBC
   17.3
   19.1
   13.8
   9.9
   10.2
   Hct
   27.3
   26.8
   28.2
   31.7
   30.7
   Plt
   290
   252
   250
   201
   277
   Cr
   4.0
   3.9
   4.2
   4.3
   3.6
   2.7
   1.6
   2.0
   TropT
   3.64
   3.30
   TCO2
   22
   Glucose
   111
   119
   75
   87
   96
   90
   82
   94
   139
   Other labs: PT / PTT / INR:12.9/30.0/1.1, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   55M HCV cirrhosis, ESRD, DM, CAD and PVD admitted for worsening PVD,
   underwent left brachial to radial bypass on [**2111-1-12**] c/b perioperative
   [**Hospital **] transferred to MICU hypotension and ? sepsis
    # Respiratory failure:
   - extubated successfully- doing well
   - req only min supp O2
   # Sepsis/hypotension:
   -pressors had to be restarted overnight for persistent hypotension -
   unclear etiology ? too negative vs. other infection (though on
   vanc/meropenem so less likely)
     -wean pressors as tolerated
   -SBP on tap on [**2111-1-23**]
   -UCx+ ESBL Klebsiella from urine
   -albumin
    # severe PVD
   -Left brachial to radial bypass
   -R BKA, L AKA.
    # HCV cirrhosis/Liver mass:
   -4L tap on [**1-13**] -- associated with hypotension and NSTEMI.
   -1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for HCC
           -AFP is normal; plan for repeat u/s in 3 months per liver.
    # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # cellulitis
   -cont vanc
   # ESRD:
   - MWF schedule.
   - renal following
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-1-23**] 07:44 PM
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2111-01-29 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis,
   ESRD, DM, CAD s/p perioperative MI and PVD who was admitted for
   worsening PVD, underwent left brachial to radial bypass on [**2111-1-12**]
   complicated by perioperative MI, was transferred to medicine of
   comorbidities, and is now transferred to MICU for management of
   hypotension and urosepsis.
   24 Hour Events:
 PICC LINE - START [**2111-1-28**] 10:44 AM
 MULTI LUMEN - STOP [**2111-1-28**] 01:00 PM
 ARTERIAL LINE - START [**2111-1-28**] 02:09 PM
 ARTERIAL LINE - STOP [**2111-1-28**] 04:23 PM
   -- hepatology rec repeat para to confirm resolusion of leukocytosis in
   next few days
   -- had PICC placed, and could't assess BPs with ongoing levophed.
   Placed axillary a-line, which ultimatly was lost a few hours later.
   Now able to assess BP w/ pedi cuff on wrist.
   -- still with ongoing levophed requirement.  I initiated midodrine as
   well to help w/ weening.  He is asx to lower BPs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-27**] 11:00 AM
   Meropenem - [**2111-1-29**] 12:45 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2111-1-28**] 09:43 AM
   Heparin Sodium (Prophylaxis) - [**2111-1-29**] 12:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-29**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (97
   HR: 95 (86 - 113) bpm
   BP: 91/37(52) {47/15(33) - 112/81(85)} mmHg
   RR: 10 (3 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
    CVP: 5 (5 - 5)mmHg
   Total In:
                                                                    908 mL
                                                                    126 mL
   PO:
   TF:
   IVF:
                                                                    408 mL
                                                                    126 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    898 mL
                                                                    126 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Distended
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   269 K/uL
   9.3 g/dL
   113 mg/dL
   2.5 mg/dL
   22 mEq/L
   4.5 mEq/L
   21 mg/dL
   108 mEq/L
   140 mEq/L
   33.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
                             [**2111-1-25**]  09:33 AM
                             [**2111-1-25**]  04:03 PM
                             [**2111-1-26**]  01:12 AM
                             [**2111-1-26**]  04:28 AM
                             [**2111-1-26**]  11:11 PM
                             [**2111-1-27**]  04:52 AM
                             [**2111-1-28**]  05:19 AM
                             [**2111-1-29**]  03:58 AM
   WBC
   19.1
   13.8
   9.9
   10.2
   10.4
   Hct
   26.8
   28.2
   31.7
   30.7
   33.5
   Plt
   [**Telephone/Fax (3) 11021**]77
   269
   Cr
   3.9
   4.2
   4.3
   3.6
   2.7
   1.6
   2.0
   2.5
   TropT
   3.30
   TCO2
   22
   Glucose
   119
   75
   87
   96
   90
   82
   94
   139
   113
   Other labs: PT / PTT / INR:12.9/30.0/1.1, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Imaging: No cxr
   Microbiology: [**2111-1-23**] 3:00 pm PERITONEAL FLUID
      GRAM STAIN (Final [**2111-1-23**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Final [**2111-1-26**]):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO GROWTH.
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and urosepsis.
   # Sepsis/hypotension:  Has urosepsis and positive for SBP on tap on
   [**2111-1-23**] prior to transfer.
   - maintain MAPs > 60, SVO2 > 70%
   - cont meropenem, needs 7 day course (last day [**2111-12-1**]); consider
   linezolid if decompensates given history of VRE
   - f/u sputum, blood cx
   - diagnostic para today to eval for possible SBP with resistant
   organisms or VRE
   - albumin 25 gm x 1 today
   - wean levophed to off as tolerated
   - recheck BP
   # Respiratory failure:  Was hypoxic on floor and hypercapneic on
   arrival to unit in setting of somnolence.  ABG with acute respiratory
   acidosis, acidemia, likely aggravated by large abdomen, pleural
   effusions, muscular weakness from critical illness, and underlying lung
   disease from smoking history, though does not carry copd diagnosis.
   Improved with 1.6L paracentesis.
   - cont meropenem for urosepsis
   - will try to keep at dry weight given pressor requirement
   - daily bladder pressures
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular recs
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin PRN for volume expansion
   - diagnostic para as above
   - lactulose- patient refusing but really needs to take this medication
   - liver recs
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH - attempt fluid off as tolerated
   - renal recs
   ICU Care
   Nutrition:
   Comments: diabetic
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: ICU until off pressors

2111-01-29 10:22:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypotension, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PICC LINE - START [**2111-1-28**] 10:44 AM
 MULTI LUMEN - STOP [**2111-1-28**] 01:00 PM
 ARTERIAL LINE - START [**2111-1-28**] 02:09 PM - line disrupted during
   dressing change PICC line.  No longer functional so discontinued.
 ARTERIAL LINE - STOP [**2111-1-28**] 04:23 PM
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-27**] 11:00 AM
   Meropenem - [**2111-1-29**] 08:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-29**] 08:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-29**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 107 (86 - 113) bpm
   BP: 115/64(76) {47/15(33) - 115/72(76)} mmHg
   RR: 19 (8 - 25) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
             Total In:
                                                                    908 mL
                                                                    240 mL
   PO:
             TF:
   IVF:
                                                                    408 mL
                                                                    240 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                     10 mL
                                                                      0 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    898 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: aka, bka
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   269 K/uL
   113 mg/dL
   2.5 mg/dL
   22 mEq/L
   4.5 mEq/L
   21 mg/dL
   108 mEq/L
   140 mEq/L
   33.5 %
   10.4 K/uL
        [image002.jpg]
                             [**2111-1-24**]  02:24 PM
                             [**2111-1-25**]  05:05 AM
                             [**2111-1-25**]  09:33 AM
                             [**2111-1-25**]  04:03 PM
                             [**2111-1-26**]  01:12 AM
                             [**2111-1-26**]  04:28 AM
                             [**2111-1-26**]  11:11 PM
                             [**2111-1-27**]  04:52 AM
                             [**2111-1-28**]  05:19 AM
                             [**2111-1-29**]  03:58 AM
   WBC
   19.1
   13.8
   9.9
   10.2
   10.4
   Hct
   26.8
   28.2
   31.7
   30.7
   33.5
   Plt
   [**Telephone/Fax (3) 11021**]77
   269
   Cr
   3.9
   4.2
   4.3
   3.6
   2.7
   1.6
   2.0
   2.5
   TropT
   3.30
   TCO2
   22
   Glucose
   119
   75
   87
   96
   90
   82
   94
   139
   113
   Other labs: PT / PTT / INR:12.9/30.0/1.1, CK / CKMB /
   Troponin-T:24//3.30, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   55M HCV cirrhosis, ESRD, DM, CAD s/p perioperative MI and PVD admitted
   for worsening PVD, underwent left brachial to radial bypass on [**2111-1-12**]
   c/b perioperative [**Hospital **] transferred to MICU hypotension and ? sepsis
   # Respiratory failure:
   - doing well post extubation
   # Sepsis/hypotension:
   -still on low dose levo - attempt to wean off today
   -SBP on tap on [**2111-1-23**]
   -cx data - ESBL Klebsiella from urine
   -BP [**Location (un) 118**] challenge - pedi cuff on wrist working at present
   # severe PVD
   -Left brachial to radial bypass
   -R BKA, L AKA.
    # HCV cirrhosis/Liver mass:
   -4L tap on [**1-13**] -- associated with hypotension and NSTEMI.
   -1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for HCC
           -AFP is normal; plan for repeat u/s in 3 months per liver.
   -repeat dx tap per liver recs
    # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # cellulitis
   -cont vanc
   # ESRD:
   - MWF schedule.
   - renal following
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Patient is critically ill.
   Total time spent: 40 minutes

2111-01-30 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis,
   ESRD, DM, CAD s/p perioperative MI and PVD who was admitted for
   worsening PVD, underwent left brachial to radial bypass on [**2111-1-12**]
   complicated by perioperative MI, was transferred to medicine of
   comorbidities, and is now transferred to MICU for management of
   hypotension and urosepsis.
   24 Hour Events:
 PARACENTESIS - At [**2111-1-29**] 01:50 PM
 ARTERIAL LINE - START [**2111-1-29**] 02:27 PM
 MULTI LUMEN - START [**2111-1-29**] 02:27 PM
 INVASIVE VENTILATION - START [**2111-1-29**] 02:32 PM
 EKG - At [**2111-1-29**] 07:19 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-27**] 11:00 AM
   Gentamicin - [**2111-1-29**] 10:14 PM
   Meropenem - [**2111-1-30**] 12:16 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.04 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Vecuronium - [**2111-1-29**] 02:10 PM
   Heparin Sodium (Prophylaxis) - [**2111-1-29**] 04:00 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2111-1-29**] 09:34 PM
   Fentanyl - [**2111-1-29**] 10:58 PM
   Midazolam (Versed) - [**2111-1-29**] 10:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-30**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.9
C (96.6
   HR: 98 (97 - 129) bpm
   BP: 115/59(78) {96/48(61) - 137/72(94)} mmHg
   RR: 25 (6 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
    Bladder pressure: 17 (17 - 28) mmHg
   Total In:
                                                                  2,680 mL
                                                                  1,203 mL
   PO:
   TF:
   IVF:
                                                                  2,200 mL
                                                                  1,103 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                  3,157 mL
                                                                  1,495 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                   -477 mL
                                                                   -292 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/43/122/24/1
   Ve: 9.9 L/min
   PaO2 / FiO2: 305
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   165 K/uL
   7.4 g/dL
   77 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   14 mg/dL
   105 mEq/L
   141 mEq/L
   25.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2111-1-29**]  03:18 PM
                             [**2111-1-29**]  05:44 PM
                             [**2111-1-29**]  08:39 PM
                             [**2111-1-29**]  08:54 PM
                             [**2111-1-29**]  09:54 PM
                             [**2111-1-29**]  10:57 PM
                             [**2111-1-29**]  11:51 PM
                             [**2111-1-30**]  12:06 AM
                             [**2111-1-30**]  06:02 AM
                             [**2111-1-30**]  06:14 AM
   WBC
   9.8
   6.8
   Hct
   27
   31.5
   25.9
   Plt
   228
   165
   Cr
   2.4
   2.0
   1.6
   TropT
   1.81
   1.56
   TCO2
   25
   23
   28
   30
   27
   26
   27
   Glucose
   105
   97
   77
   Other labs: PT / PTT / INR:13.1/31.3/1.1, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs:    RESPIRATORY CULTURE (Final [**2111-1-26**]):
         SPARSE GROWTH Commensal Respiratory Flora.
         Due to mixed bacterial types ( >= 3 colony types) an abbreviated
         workup will be performed appropriate to the isolates recovered
   from
         this site.
         YEAST.    HEAVY GROWTH.
         YEAST.    SPARSE GROWTH.  SECOND MORPHOLOGY.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH
   Microbiology: Gram stain neg.
   Ascites     WBC
   170    RBC
   310
     Poly
   1    Lymph
   21    Mono
   58    EOs
   Mesothe: 1
   Macroph: 19
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and urosepsis.
   # Respiratory failure:  Initially intubated for hypercapneic resp
   failure in setting of somnolence (missed cpap while inpatient and
   started on gabapentin) and sepsis.  Improved with 1.6L paracentesis and
   extubated on [**2111-1-27**].  Reintubated again on [**2111-1-29**] in setting of
   hypercapnea, concern for worsening sepsis vs oversedation after
   restarting ms contin.  Resp dynamics also aggravated by large abdomen,
   pleural effusions, muscular weakness from critical illness, and
   underlying lung disease from smoking history.  Removed 1L + 2L
   paracentesis on [**1-29**].
   - wean sedation and trial of PS
   - cont meropenem/vanc; added gent ([**2111-1-29**]) for double coverage but
   will hold for now
   - bladder pressures q6h
   - avoid sedating meds when extubated
   - goals of care discussion with family
   # Sepsis/hypotension:  Has urosepsis and positive for SBP on tap on
   [**2111-1-23**] prior to transfer.  BP more stable now.
   - maintain MAPs > 60, SVO2 > 70%
   - cont meropenem, needs 7 day course (last day [**2111-1-31**]); also on vanc
   and started gent ([**1-29**])
   - consider linezolid if decompensates given history of VRE
   - f/u cx data
   - albumin 25 gm prn
   - wean off levophed to off as tolerated
   - correlate cuff pressures and femoral a-line
   # Anemia:  likely in setting of multiple blood draws and procedures on
   [**2111-1-29**].  Has ACI.
   - recheck hct
   - guaiac stools
   - transfuse for hct < 25 though does have CAD
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular recs
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin PRN for volume expansion
   - lactulose
   - liver recs
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH - attempt fluid off as tolerated
   - renal recs
   ICU Care
   Nutrition: TFs
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-01-30 09:57:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 PARACENTESIS - At [**2111-1-29**] 01:50 PM
 ARTERIAL LINE - START [**2111-1-29**] 02:27 PM
 MULTI LUMEN - START [**2111-1-29**] 02:27 PM
 INVASIVE VENTILATION - START [**2111-1-29**] 02:32 PM
 EKG - At [**2111-1-29**] 07:19 PM
 Worsening pCO2 due to decreased TV - abd pressures noted to be up via
   Foley
 Repeat paracentesis with volume removal -> improved ventilation with
   [**Month (only) 453**] abd pressures
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-27**] 11:00 AM
   Gentamicin - [**2111-1-29**] 10:14 PM
   Meropenem - [**2111-1-30**] 08:06 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.04 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Vecuronium - [**2111-1-29**] 02:10 PM
   Sodium Bicarbonate 8.4% (Amp) - [**2111-1-29**] 09:34 PM
   Fentanyl - [**2111-1-29**] 10:58 PM
   Midazolam (Versed) - [**2111-1-29**] 10:58 PM
   Heparin Sodium (Prophylaxis) - [**2111-1-30**] 09:00 AM
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-30**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 101 (97 - 129) bpm
   BP: 83/46(57) {83/46(57) - 137/72(94)} mmHg
   RR: 25 (6 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
   Bladder pressure: 17 (17 - 28) mmHg
   Total In:
                                                                  2,680 mL
                                                                  1,739 mL
   PO:
   TF:
   IVF:
                                                                  2,200 mL
                                                                  1,579 mL
   Blood products:
                                                                    100 mL
                                                                    100 mL
   Total out:
                                                                  3,157 mL
                                                                  2,450 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                   -477 mL
                                                                   -711 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 26.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/43/122/24/1
   Ve: 9.8 L/min
   PaO2 / FiO2: 305
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Skin:  Cool
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   165 K/uL
   77 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.4 mEq/L
   14 mg/dL
   105 mEq/L
   141 mEq/L
   25.9 %
   6.8 K/uL
        [image002.jpg]
                             [**2111-1-29**]  03:18 PM
                             [**2111-1-29**]  05:44 PM
                             [**2111-1-29**]  08:39 PM
                             [**2111-1-29**]  08:54 PM
                             [**2111-1-29**]  09:54 PM
                             [**2111-1-29**]  10:57 PM
                             [**2111-1-29**]  11:51 PM
                             [**2111-1-30**]  12:06 AM
                             [**2111-1-30**]  06:02 AM
                             [**2111-1-30**]  06:14 AM
   WBC
   9.8
   6.8
   Hct
   27
   31.5
   25.9
   Plt
   228
   165
   Cr
   2.4
   2.0
   1.6
   TropT
   1.81
   1.56
   TCO2
   25
   23
   28
   30
   27
   26
   27
   Glucose
   105
   97
   77
   Other labs: PT / PTT / INR:13.1/31.3/1.1, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:[**9-5**], Alk Phos / T Bili:77/0.4, Amylase
   / Lipase:17/, Differential-Neuts:89.1 %, Band:0.0 %, Lymph:5.2 %,
   Mono:3.1 %, Eos:2.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:141 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Microbiology: GS - negative from peritoneal fluid
   Assessment and Plan
   55M HCV cirrhosis, ESRD, DM, CAD s/p perioperative MI and PVD admitted
   for worsening PVD, underwent left brachial to radial bypass on [**2111-1-12**]
   c/b perioperative [**Hospital **] transferred to MICU hypotension and ? sepsis.
   # Respiratory failure:
   - reintubated yesterday with worsening acidemia and hypercarbia
   - inc abd pressures adversely impacting mechanics/TV --> rising pCO2
        -therapeutic paracentesis -> [**Month (only) 453**] abd pressures and improved
   mechanics
   - decompensation seems at this point most likely combination of
   sedating meds and worsening ascites yielding [**Month (only) 453**] TV, rising pCO2, [**Month (only) 453**]
   mentation requiring reintubation
   # Sepsis/hypotension:
   -On low dose levo - able to wean back close to where was at yesterday
   prior to decompensation
   -SBP on tap on [**2111-1-23**], subsequent taps with polys but no orgs
   -cx data - ESBL Klebsiella from urine
   -BP [**Location (un) 118**] challenge - pedi cuff on wrist and aline placed last
   evening - correlate pressures between the two since alines have tended
   to b short-lived in this pt
   # severe PVD
   -Left brachial to radial bypass
   -R BKA, L AKA.
    # HCV cirrhosis/Liver mass:
   - 4L tap on [**1-13**] -- associated with hypotension and NSTEMI.
   - 1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for HCC
           -AFP is normal; plan for repeat u/s in 3 months per liver.
   - repeat dx and therapeutic tap yesterda
   - follow bladder pressures closely
   -recurring ascites ongoing challenge
    # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # cellulitis
   -cont vanc
   # ESRD:
   - currently on CVVHD
   - renal following
   Remainder of plan per resident note
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2111-01-31 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - continued on PS
   - CVVH continued; still pressor requirement for BP
   - cultures still no new growth; maintained on same abx
   - talked to sister; family meeting monday afternoon.  will have goals
   of care discussion though per sister, patient is quite scared of dying
   - liver recommended starting rifaximin, checking LFTs, and goals of
   care discussion
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2111-1-29**] 10:14 PM
   Vancomycin - [**2111-1-30**] 08:28 PM
   Meropenem - [**2111-1-31**] 12:06 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2111-1-30**] 12:19 PM
   Fentanyl - [**2111-1-30**] 12:19 PM
   Heparin Sodium (Prophylaxis) - [**2111-1-30**] 04:30 PM
   Dextrose 50% - [**2111-1-30**] 06:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-1-31**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 103 (100 - 110) bpm
   BP: 113/63(78) {64/38(45) - 132/66(89)} mmHg
   RR: 30 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
   Height: 69 Inch
    Bladder pressure: 16 (13 - 17) mmHg
   Total In:
                                                                  5,455 mL
                                                                  2,819 mL
   PO:
   TF:
                                                                    151 mL
                                                                    283 mL
   IVF:
                                                                  4,909 mL
                                                                  2,336 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,598 mL
                                                                  2,719 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                    100 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 2
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 22.2 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/40/130/23/4
   Ve: 10.1 L/min
   PaO2 / FiO2: 325
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic.  ETT in place
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: aka, bka
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, (squeezes finger)
   responsed to verbal stimuli
   Labs / Radiology
   178 K/uL
   7.9 g/dL
   138 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   8 mg/dL
   100 mEq/L
   137 mEq/L
   26.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2111-1-30**]  06:14 AM
                             [**2111-1-30**]  11:11 AM
                             [**2111-1-30**]  11:14 AM
                             [**2111-1-30**]  11:41 AM
                             [**2111-1-30**]  05:31 PM
                             [**2111-1-30**]  05:47 PM
                             [**2111-1-30**]  11:13 PM
                             [**2111-1-30**]  11:23 PM
                             [**2111-1-31**]  04:53 AM
                             [**2111-1-31**]  05:26 AM
   WBC
   7.2
   Hct
   27.1
   26.1
   26.4
   Plt
   178
   Cr
   1.3
   1.2
   1.0
   TCO2
   27
   27
   25
   27
   29
   Glucose
   70
   76
   110
   138
   Other labs: PT / PTT / INR:13.9/91.9/1.2, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:12/32, Alk Phos / T Bili:82/0.3, Amylase
   / Lipase:17/, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:20.6 %,
   Mono:6.9 %, Eos:9.4 %, Lactic Acid:0.9 mmol/L, Albumin:4.0 g/dL,
   LDH:260 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and urosepsis.
   # Respiratory failure:  Initially intubated for hypercapneic resp
   failure in setting of somnolence (missed cpap while inpatient and
   started on gabapentin) and sepsis.  Improved with 1.6L paracentesis and
   extubated on [**2111-1-27**].  Reintubated again on [**2111-1-29**] in setting of
   hypercapnea, concern for worsening sepsis vs oversedation after
   restarting ms contin.  Resp dynamics also aggravated by large abdomen,
   pleural effusions, muscular weakness from critical illness, and
   underlying lung disease from smoking history.  Removed 1L + 2L
   paracentesis on [**1-29**].
   - cont to wean vent
   - cont meropenem/vanc.  Hold off on double coverage for now
   - bladder pressures q6h
   - avoid sedating meds when extubated
   - goals of care discussion with family- family meeting on Monday [**2-2**]
   - wean midazolam/fentanyl; switch to propofol and tolerate increased
   levels for levophed if needed
   # Sepsis/hypotension:  Has urosepsis and positive for SBP on tap on
   [**2111-1-23**] prior to transfer.  BP more stable now.  Repeat urine culture
   from [**1-29**] with GNRs again.
   - maintain MAPs > 60, SVO2 > 70%
   - cont meropenem, needs 7 day course (last day [**2111-1-31**])- will continue
   meropenem for now until the culture sensitivities available; also on
   vanc- will keep vanco on for one more day, if all cultures still no
   GPC, will stop vanco
   - consider linezolid if decompensates given history of VRE
   - f/u cx data- ask micro to get sensitivities on [**1-29**] urine culture in
   case meropenem resistant
   - albumin 25 gm prn; but first check CVP and MVO2 sat along with
   lactate
   - wean off levophed to off as tolerated
   - restarted on midodrine 5 mg TID
   - d/w hepatology re peritoneal drain
   # Anemia:  likely in setting of multiple blood draws and procedures on
   [**2111-1-29**].  Has ACI.
   - [**Hospital1 **] Hct
   - guaiac stools- positive
   - transfuse for hct < 25 though does have CAD
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular recs
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin PRN for volume expansion if volume down (CVP/MvO2 as above)
   - lactulose/rifaximin
   - liver recs.  d/w hepatology regarding drain
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH - attempt fluid off as tolerated
   - renal recs
 DIABETES MELLITUS (DM), TYPE I
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HEPATITIS, CHRONIC VIRAL
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O ACIDOSIS, RESPIRATORY
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2111-1-30**] 06:00 PM 38 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM
   Prophylaxis:
   DVT: heparin sc
   Stress ulcer: H2 blocker
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2111-01-31 09:59:00 Physician Attending Progress Note
Chief Complaint: Resp failure, cardiogenic and septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 56 yo man with HCV cirrhosis, ESRD on HD, DM, CAD sp MI with EF
   20%, admitted initially for L brachial to radial bypass [**2111-1-12**].
   Cardiac arrest [**2111-1-13**] in setting of large volume paracentesis.
   Transferred to floor and back to ICU [**2110-1-21**] for SBP and ESBL klebsiella
   and septic shock requiring pressors, and hypercarbic respiratory
   failure requiring intubation.  Initially extubated [**1-27**] but reintubated
   [**1-29**] for hypercarbic respiratory failure.  Now requiring CVVH due to
   vasopressor requirement.
   24 Hour Events:
   -continued on pressure support but became apneic requiring volume
   cycled ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2111-1-29**] 10:14 PM
   Vancomycin - [**2111-1-30**] 08:28 PM
   Meropenem - [**2111-1-31**] 08:15 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2111-1-30**] 12:19 PM
   Fentanyl - [**2111-1-30**] 12:19 PM
   Heparin Sodium (Prophylaxis) - [**2111-1-30**] 04:30 PM
   Dextrose 50% - [**2111-1-30**] 06:00 PM
   Simvastatin
   Nephrocaps
   Lidocaine patch
   Plavix
   RISS
   ASA 81mg
   Renagel
   Lactulose
   Meropenem
   Famotidine
   Vancomycin 1gm IV q24
   Rifaximin
   Chlorhexadine mouth wash
   Midodrine 5mg TID
   Other medications:
   Flowsheet Data as of  [**2111-1-31**] 09:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.1
   HR: 103 (100 - 110) bpm
   BP: 113/63(78) {64/38(45) - 132/66(89)} mmHg
   RR: 30 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
   Height: 69 Inch
   Bladder pressure: 16 (13 - 17) mmHg
   Total In:
                                                                  5,455 mL
                                                                  3,490 mL
   PO:
   TF:
                                                                    151 mL
                                                                    329 mL
   IVF:
                                                                  4,909 mL
                                                                  2,871 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,598 mL
                                                                  3,013 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -143 mL
                                                                    477 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 25
   RR (Spontaneous): 2
   PEEP: 7 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   SpO2: 100%
   ABG: 7.45/40/130/23/4
   Ve: 10.1 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Distended
   Skin:  Not assessed
   Neurologic: Following simple commands.  Pupils pinpoint bilaterally.
   Labs / Radiology
   7.9 g/dL
   178 K/uL
   138 mg/dL
   1.0 mg/dL
   23 mEq/L
   3.7 mEq/L
   8 mg/dL
   100 mEq/L
   137 mEq/L
   26.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2111-1-30**]  06:14 AM
                             [**2111-1-30**]  11:11 AM
                             [**2111-1-30**]  11:14 AM
                             [**2111-1-30**]  11:41 AM
                             [**2111-1-30**]  05:31 PM
                             [**2111-1-30**]  05:47 PM
                             [**2111-1-30**]  11:13 PM
                             [**2111-1-30**]  11:23 PM
                             [**2111-1-31**]  04:53 AM
                             [**2111-1-31**]  05:26 AM
   WBC
   7.2
   Hct
   27.1
   26.1
   26.4
   Plt
   178
   Cr
   1.3
   1.2
   1.0
   TCO2
   27
   27
   25
   27
   29
   Glucose
   70
   76
   110
   138
   Other labs: PT / PTT / INR:13.9/91.9/1.2, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:12/32, Alk Phos / T Bili:82/0.3, Amylase
   / Lipase:17/, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:20.6 %,
   Mono:6.9 %, Eos:9.4 %, Lactic Acid:0.9 mmol/L, Albumin:4.0 g/dL,
   LDH:260 IU/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR:
   Microbiology: Urine:
   [**2110-1-29**]: GNRs
   [**2110-1-24**]: no growth
   [**2110-1-18**]:  ESBL Klebsiella
   Blood:
   [**1-31**]: NGTD
   [**1-29**]: NGTD
   Sputum:
   [**1-29**]: GPR and pseudohyphae
   Peritoneal fluid
   [**1-29**]: no growth
   C. difficile
   [**1-24**]: negative
   Assessment and Plan
   56 yo man with severe ischemic cardiomyopathy, ESLD, ESRD, restrictive
   ventilatory failure in the setting of ACC from ascites.
   Vent dependent due to refractory ascites.
   Sedation held, follows commands.
   Remains on levophed. ESBL Klebs, SBP, ACC.
   Main plan: Paracentesis to optimize BP and lung mechanics, try to
   remove pressors.
   Respiratory failure due to ventilator dependence
   -persistent ventilatory dependence due most likely to increased
   abdominal pressures and resultant restrictive lung disease and
   oversedation
   -wean fentanyl to off and use fentanyl boluses as needed
   -propofol drip, will tolerate and increase in pressor requirement for
   change in sedation
   -CXR without evidence of volume overload
   Persistent hypotension and vasopressor requirement.  Likely etiologies
   include septic shock, abdominal compartment syndrome, and possible
   adrenal insufficiency
   -check CVP, CVO2, and lactate
   -await sensitivities from urine culture, will continue meropenem and
   vancomycin.  Will await culture results, if no gram positive organisms
   tomorrow can stop vancomycin
   -continue levophed for goal MAP>50
   -if need for recurrent paracentesis for abdominal compartment syndrome
   may need to consider peritoneal drain
   ICU Care
   Nutrition: TF at goal
   Glycemic Control:  RISS
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM, will check to see if PICC works
   today
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   VAP: chlorhexadine
   Comments:
   Communication:  Comments:
   Code status: Full for now
   Disposition : ICU.
   Total time spent: 45 minutes
   Critically ill.

2111-02-01 08:17:00 Physician Attending Progress Note
Chief Complaint: septic shock and hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with HCV cirrhosis, ESRD on HD, DM, CAD sp MI with EF 20%,
   admitted initially for L brachial to radial bypass [**2111-1-12**].  Cardiac
   arrest [**2111-1-13**] in setting of large volume paracentesis.  Transferred
   to floor and back to ICU [**2110-1-21**] for SBP and ESBL klebsiella and septic
   shock requiring pressors, and hypercarbic respiratory failure requiring
   intubation.  Initially extubated [**1-27**] but reintubated [**1-29**] for
   hypercarbic respiratory failure.  Now requiring CVVH due to vasopressor
   requirement.
   24 Hour Events:
   -CVO2 sent from femoral line 33%
   -levophed weaned off after fentanyl and versed drips discontinued.
   Receiving fentanyl boluses for R arm discomfort
   -therapeutic paracentesis with 5L straw colored fluid removed, repeat
   CVO2 77%
   -remained on PS 5/5 overnight but this morning with acute drop in
   minute ventilation to 1L/min, difficult to ambu bag, improved with
   mucus plugging
   -continues to have difficulty  with R arm PICC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2111-1-29**] 10:14 PM
   Vancomycin - [**2111-1-31**] 08:07 PM
   Meropenem - [**2111-2-1**] 12:34 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-31**] 10:00 PM
   Fentanyl - [**2111-2-1**] 04:15 AM
   Morphine Sulfate - [**2111-2-1**] 06:15 AM
   Other medications:
   Simvastatin 40mg daily
   Nephrocaps
   Lidocaine patch
   Plavix 75mg daily
   RISS
   ASA 81mg daily
   Lactulose 30ml TID
   Famotidine
   Rifaximin 40 TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-1**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 94 (90 - 107) bpm
   BP: 101/54(69) {90/46(60) - 128/68(89)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
   Height: 69 Inch
   CVP: 15 (14 - 15)mmHg
   Bladder pressure: 5 (4 - 14) mmHg
   Mixed Venous O2% Sat: 39 - 77
                                Total In:
                                                                  9,618 mL
                                                                  2,453 mL
   PO:
                                TF:
                                                                    537 mL
   IVF:
                                                                  7,871 mL
                                                                  2,403 mL
   Blood products:
                                                                    600 mL
                                                                     50 mL
   Total out:
                                                                 15,271 mL
                                                                  2,259 mL
   Urine:
   NG:
   Stool:
                                                                    700 mL
   Drains:
                                                                  5,000 mL
   Balance:
                                                                 -5,653 mL
                                                                    194 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 444 (260 - 444) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 10 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.40/52/135/28/6
   Ve: 5.5 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: tachycardic, regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: clear anteriorly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, trying to mouth words
   Labs / Radiology
   6.9 g/dL
   194 K/uL
   105 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   4 mg/dL
   100 mEq/L
   140 mEq/L
   23.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2111-1-30**]  11:13 PM
                             [**2111-1-30**]  11:23 PM
                             [**2111-1-31**]  04:53 AM
                             [**2111-1-31**]  05:26 AM
                             [**2111-1-31**]  10:18 AM
                             [**2111-1-31**]  04:19 PM
                             [**2111-1-31**]  10:41 PM
                             [**2111-1-31**]  10:49 PM
                             [**2111-2-1**]  03:45 AM
                             [**2111-2-1**]  04:18 AM
   WBC
   7.2
   6.0
   Hct
   26.4
   23.6
   Plt
   178
   194
   Cr
   1.0
   0.7
   0.7
   TCO2
   27
   29
   29
   32
   33
   33
   Glucose
   110
   138
   107
   105
   Other labs: PT / PTT / INR:13.7/91.9/1.2, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:[**9-6**], Alk Phos / T Bili:57/0.4, Amylase
   / Lipase:17/, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:20.6 %,
   Mono:6.9 %, Eos:9.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:149 IU/L, Ca++:8.7 mg/dL, Mg++:1.4 mg/dL, PO4:1.9 mg/dL
   Peritoneal fluid: 14 WBC, >1000 RBC
   ABG7.40/52/135 on PS 5/5/0.4
   Assessment and Plan
   56 yo man with severe ischemic cardiomyopathy, ESLD, ESRD, restrictive
   ventilatory failure in the setting of abdominal compartment syndrome
   from ascites.
   Respiratory failure due to restrictive chest wall from abdominal
   compartment syndrome
   -TV improved, now up to 700cc on PS 5/5/0.4
   -plan for extubation today with BiPAP as bridge
   -will have family present when extubated to address goals of care.
   Patient will likely need re-intubation when ascites re-accumulates
   Vasopressor requirement resolved with discontinuation of sedation
   -awaiting sensitivities from urine culture (with gram negative rods)
   -repeat urine culture when we have a sample
   -continue on meropenem for GNRs in urine, stop vancomycin today
   -continue with midodrine 10mg TID for now
   Hepatitis C with decompensated liver failure and recurrent ascites
   -continue lactulose and rifaximin
   -liver team does not agree with placement of peritoneal drain but this
   may be an option for palliation
   ESRD on CVVH
   -continues to be run -50cc/hr
   -will discuss with renal about transitioning to HD now that he is off
   pressors
   Ischemic CM with EF 20%
   -continues on ASA and plavix
   -Hct trending down but no evidence of active ischemia.  Will continue
   to monitor
   PVD sp brachial-radial bypass
   -operative site looks good
   -fentanyl as needed for pain
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:  RISS
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: famotidine
   VAP: chlorhexadine mouth wash
   Comments:
   Communication:  Comments:
   Code status: Full but after extubation today will have goals of care
   discussion with patient and his family
   Disposition : ICU today
   Total time spent:

2111-02-01 08:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -- Continued to address hemodynamics throughout the day.  Svo2 from the
   femoral line was 33%.  In order to evaluate for cardiogenic
   underfilling in the setting of abdominal expansion, performed para with
   removal of 5L of straw colored fluid.
   - Able to ween off pressors
   - Had been off sedation for most of the day, cooperative and following
   commands. Even with para, patient with sub-optimal tidal volumes of 7.
   Unable to extubate.
   - PICC with functioning difficulties, PICC nurse will need to address
   today.
   - complaining of increasing arm pain now that sedation off.  No change
   in exam.  Requiring pain meds throughout the night.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2111-1-29**] 10:14 PM
   Vancomycin - [**2111-1-31**] 08:07 PM
   Meropenem - [**2111-2-1**] 12:34 AM
   Infusions:
   Calcium Gluconate (CRRT) - 2 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-1-31**] 10:00 PM
   Fentanyl - [**2111-2-1**] 04:15 AM
   Morphine Sulfate - [**2111-2-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-1**] 08:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 94 (90 - 107) bpm
   BP: 101/54(69) {90/46(60) - 128/68(89)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
   Height: 69 Inch
    CVP: 15 (14 - 15)mmHg
   Bladder pressure: 5 (4 - 14) mmHg
   Mixed Venous O2% Sat: 39 - 77
   Total In:
                                                                  9,618 mL
                                                                  2,454 mL
   PO:
   TF:
                                                                    537 mL
   IVF:
                                                                  7,871 mL
                                                                  2,404 mL
   Blood products:
                                                                    600 mL
                                                                     50 mL
   Total out:
                                                                 15,271 mL
                                                                  2,259 mL
   Urine:
   NG:
   Stool:
                                                                    700 mL
   Drains:
                                                                  5,000 mL
   Balance:
                                                                 -5,653 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 444 (260 - 444) mL
   PS : 5 cmH2O
   RR (Set): 25
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 10 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.40/52/135/28/6
   Ve: 5.5 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   194 K/uL
   6.9 g/dL
   105 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.3 mEq/L
   4 mg/dL
   100 mEq/L
   140 mEq/L
   23.6 %
   6.0 K/uL
        [image002.jpg]
                             [**2111-1-30**]  11:13 PM
                             [**2111-1-30**]  11:23 PM
                             [**2111-1-31**]  04:53 AM
                             [**2111-1-31**]  05:26 AM
                             [**2111-1-31**]  10:18 AM
                             [**2111-1-31**]  04:19 PM
                             [**2111-1-31**]  10:41 PM
                             [**2111-1-31**]  10:49 PM
                             [**2111-2-1**]  03:45 AM
                             [**2111-2-1**]  04:18 AM
   WBC
   7.2
   6.0
   Hct
   26.4
   23.6
   Plt
   178
   194
   Cr
   1.0
   0.7
   0.7
   TCO2
   27
   29
   29
   32
   33
   33
   Glucose
   110
   138
   107
   105
   Other labs: PT / PTT / INR:13.7/91.9/1.2, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:[**9-6**], Alk Phos / T Bili:57/0.4, Amylase
   / Lipase:17/, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:20.6 %,
   Mono:6.9 %, Eos:9.4 %, Lactic Acid:0.8 mmol/L, Albumin:4.0 g/dL,
   LDH:149 IU/L, Ca++:8.7 mg/dL, Mg++:1.4 mg/dL, PO4:1.9 mg/dL
   Fluid analysis / Other labs: pH 7.40
   pCO2 52
   pO2135
   HCO3 33
   Type:[**Last Name (un) **]
   O2Sat: 71
   Ascites
   Chemistry
   Albumin: 2.6
   PERITONEAL FLUID
     Ascites     WBC
   14    RBC
   1005
     Poly
   10    Lymph
   43    Mono
   5    EOs
   Mesothe: 2
   Macroph: 40
   Type:Mix
   O2Sat: 39
   Imaging: CXR from AM pending
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and urosepsis.
   # Respiratory failure:  Initially intubated for hypercapneic resp
   failure in setting of somnolence (missed cpap while inpatient and
   started on gabapentin) and sepsis.  Improved with 1.6L paracentesis and
   extubated on [**2111-1-27**].  Reintubated again on [**2111-1-29**] in setting of
   hypercapnea, concern for worsening sepsis vs oversedation after
   restarting ms contin.  Resp dynamics also aggravated by large abdomen,
   pleural effusions, muscular weakness from critical illness, and
   underlying lung disease from smoking history.  Removed 1L + 2L
   paracentesis on [**1-29**] and another 5L on [**1-31**].
   - Vt have improved post para, and MV also improved.  Currently [**5-20**].
   Planned extubation today.
   - cont meropenem/vanc.  Hold off on double coverage for now
   - bladder pressures q6h
   - avoid sedating meds when extubated; PRN sedation boluses
   - goals of care discussion with family- family meeting on Monday [**2-2**]
   # Sepsis/hypotension:  Has urosepsis and positive for SBP on tap on
   [**2111-1-23**] prior to transfer.  BP more stable now.  Repeat urine culture
   from [**1-29**] with GNRs again, awaing sensitivities.
   - maintain MAPs > 60, SVO2 > 70%
   - cont meropenem, needs 7 day course (last day [**2111-1-31**])- will continue
   meropenem for now until the culture sensitivities available; also on
   vanc- will keep vanco on for one more day, if all cultures still no
   GPC, will stop vanco today
   - consider linezolid if decompensates given history of VRE
   - f/u cx data- ask micro to get sensitivities on [**1-29**] urine culture in
   case meropenem resistant
   - albumin 25 gm prn; but first check CVP and MVO2 sat along with
   lactate
   - wean off levophed to off as tolerated
   - restarted on midodrine 5 mg TID
   - d/w hepatology re peritoneal drain
   # Anemia:  likely in setting of multiple blood draws and procedures on
   [**2111-1-29**].  Has ACI.
   - [**Hospital1 **] Hct
   - guaiac stools- positive
   - transfuse for hct < 25 though does have CAD possibly later today
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular recs
   - fenatyl and oxycodone for pain control, will address w/ goals of care
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin PRN for volume expansion if volume down (CVP/MvO2 as above)
   - lactulose/rifaximin
   - liver recs.  d/w hepatology regarding drain
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH - attempt fluid off as tolerated
   - renal recs
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM;
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code; will need to readdress in family meeting today
   Disposition:

2111-02-02 07:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated in a.m.
   - fam meeting regarding goals of care.  laid out hospice vs continued
   invasive treatments in setting of terminal disease (liver, kidney,
   cardiac, likely recurrent resp failure).  also got SW involved. patient
   initially thought he could be on hospice with dialysis but clarified
   later. family understands the choices in front of him. patient wants to
   think about overnight.
   - on auto-set bipap o/n (couldn't tolerate [**10-20**]) and did well
   - got fentanyl boluses for left arm pain w/o resp compromise
   - 14 beat run of NSVT -> ekg stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-31**] 08:07 PM
   Meropenem - [**2111-2-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2111-2-1**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2111-2-1**] 09:13 PM
   Fentanyl - [**2111-2-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-2**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 102 (93 - 105) bpm
   BP: 119/62(83) {100/48(65) - 136/69(90)} mmHg
   RR: 24 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
   Height: 69 Inch
    Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  5,618 mL
                                                                    227 mL
   PO:
   TF:
   IVF:
                                                                  5,518 mL
                                                                    227 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,915 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -297 mL
                                                                    227 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 340 (340 - 340) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.40/51/110/30/5
   Ve: 6.4 L/min
   PaO2 / FiO2: 110
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   279 K/uL
   7.4 g/dL
   97 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   4 mg/dL
   99 mEq/L
   138 mEq/L
   24.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2111-1-31**]  04:19 PM
                             [**2111-1-31**]  10:41 PM
                             [**2111-1-31**]  10:49 PM
                             [**2111-2-1**]  03:45 AM
                             [**2111-2-1**]  04:18 AM
                             [**2111-2-1**]  10:09 AM
                             [**2111-2-1**]  02:52 PM
                             [**2111-2-1**]  04:29 PM
                             [**2111-2-2**]  03:10 AM
                             [**2111-2-2**]  03:20 AM
   WBC
   6.0
   4.9
   Hct
   23.6
   24.7
   Plt
   194
   279
   Cr
   0.7
   0.7
   1.0
   TCO2
   32
   33
   33
   32
   31
   32
   33
   Glucose
   107
   105
   97
   Other labs: PT / PTT / INR:13.6/49.3/1.2, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:[**9-6**], Alk Phos / T Bili:57/0.4, Amylase
   / Lipase:17/, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:20.6 %,
   Mono:6.9 %, Eos:9.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   LDH:149 IU/L, Ca++:8.8 mg/dL, Mg++:1.3 mg/dL, PO4:1.8 mg/dL
   Imaging: CXR:  In comparison with the study of [**1-31**], the monitoring and
   support
   devices remain in place. Persistent enlargement of the cardiac
   silhouette,
   some of which is due to low lung volumes. Retrocardiac opacification
   persists at the left. Although this could represent merely atelectasis,
   in the
   appropriate clinical setting the possibility of supervening pneumonia
   must be seriously considered.
   Microbiology: KLEBSIELLA PNEUMONIAE.    10,000-100,000 ORGANISMS/ML..
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and urosepsis.
   # Respiratory failure:  Initially intubated for hypercapneic resp
   failure in setting of somnolence (missed cpap while inpatient and
   started on gabapentin) and sepsis.  Improved with 1.6L paracentesis and
   extubated on [**2111-1-27**].  Reintubated again on [**2111-1-29**] in setting of
   hypercapnea, concern for worsening sepsis vs oversedation after
   restarting ms contin.  Resp dynamics also aggravated by large abdomen,
   pleural effusions, muscular weakness from critical illness, and
   underlying lung disease from smoking history.  Removed 1L + 2L
   paracentesis on [**1-29**] and another 5L on [**1-31**].
   - Vt have improved post para, and MV also improved.  Now successfully
   extubated
   - cont meropenem.  Hold off on double coverage for now
   - bladder pressures q6h
   - avoid sedating meds when extubated; PRN sedation boluses
   - will use BIPAP overnight; and monitor ascites and pre-emptively drain
   # Sepsis/hypotension:  Has urosepsis and positive for SBP on tap on
   [**2111-1-23**] prior to transfer.  BP more stable now.  Repeat urine culture
   from [**1-29**] with kleb
   - maintain MAPs > 60, SVO2 > 70%
   - cont meropenem, needs 7 day course (last day [**2111-1-31**])- will continue
   meropenem for now until the culture sensitivities available; also on
   vanc- will keep vanco on for one more day, if all cultures still no
   GPC, vanc stopped [**2-1**]
   - consider linezolid if decompensates given history of VRE
   - f/u cx data- ask micro to get sensitivities on [**1-29**] urine culture in
   case meropenem resistant
   - restarted on midodrine 5 mg TID
   # Anemia:  likely in setting of multiple blood draws and procedures on
   [**2111-1-29**].  Has ACI.
   - [**Hospital1 **] Hct
   - guaiac stools- positive
   - transfuse for hct < 22 when needs fluid resussitatiodn
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular recs
   - fenatyl and oxycodone for pain control, will address w/ goals of care
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin PRN for volume expansion if volume down (CVP/MvO2 as above)
   - lactulose/rifaximin
   - liver recs.  d/w hepatology regarding drain
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH - attempt fluid off as tolerated
   - renal recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2111-02-02 07:59:00 Physician Attending Progress Note
Chief Complaint: septic shock and hypercarbic respiratory failure, s/p
   asystolic arrest
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with HCV cirrhosis, ESRD on HD, DM, CAD sp MI with EF 20%,
   admitted initially for L brachial to radial bypass [**2111-1-12**].  Cardiac
   arrest [**2111-1-13**] in setting of large volume paracentesis.  Transferred
   to floor and back to ICU [**2110-1-21**] for SBP and ESBL klebsiella and septic
   shock requiring pressors, and hypercarbic respiratory failure requiring
   intubation.  Initially extubated [**1-27**] but reintubated [**1-29**] for
   hypercarbic respiratory failure.
   24 Hour Events:
 Extubated yesterday
 Off of pressors
Family meeting yesterday, patient still wants
everything done
Overnight CPAP
 autoset
14 beats of NSVT
Stopped CVVH, transitioned to intermittent HD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-31**] 08:07 PM
   Meropenem - [**2111-2-2**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis)
   Fentanyl
   Other medications:
   Simvastatin, nephrocaps, lidoderm, plavix, ASA, lactulose, pepcid,
   rifaxamin, midodrine
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-2**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 102 (93 - 105) bpm
   BP: 119/62(83) {100/48(65) - 136/69(90)} mmHg
   RR: 24 (11 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.1 kg (admission): 75 kg
   Height: 69 Inch
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  5,618 mL
                                                                    230 mL
   PO:
   TF:
   IVF:
                                                                  5,518 mL
                                                                    230 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  5,915 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -297 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 340 (340 - 340) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.40/51/110/30/5
   Ve: 6.4 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished chronically ill-appearing M in NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, MMM
   Cardiovascular: Distant heart sounds, RRR, S1, S2
   Peripheral Vascular: s/p R AKA, L BKA, multiple necrotic fingers on L,
   ulcerated R PIP
   Respiratory / Chest: Symmetric, decreased BS bibasilarlly
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: A&O x3
   Labs / Radiology
   7.4 g/dL
   279 K/uL
   97 mg/dL
   1.0 mg/dL
   30 mEq/L
   3.5 mEq/L
   4 mg/dL
   99 mEq/L
   138 mEq/L
   24.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2111-1-31**]  04:19 PM
                             [**2111-1-31**]  10:41 PM
                             [**2111-1-31**]  10:49 PM
                             [**2111-2-1**]  03:45 AM
                             [**2111-2-1**]  04:18 AM
                             [**2111-2-1**]  10:09 AM
                             [**2111-2-1**]  02:52 PM
                             [**2111-2-1**]  04:29 PM
                             [**2111-2-2**]  03:10 AM
                             [**2111-2-2**]  03:20 AM
   WBC
   6.0
   4.9
   Hct
   23.6
   24.7
   Plt
   194
   279
   Cr
   0.7
   0.7
   1.0
   TCO2
   32
   33
   33
   32
   31
   32
   33
   Glucose
   107
   105
   97
   Other labs: PT / PTT / INR:13.6/49.3/1.2, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:[**9-6**], Alk Phos / T Bili:57/0.4, Amylase
   / Lipase:17/, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:20.6 %,
   Mono:6.9 %, Eos:9.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   LDH:149 IU/L, Ca++:8.8 mg/dL, Mg++:1.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   Issues: severe ischemic cardiomyopathy, ESLD, ESRD, multiorgan failure,
   abdominal compartment syndrome, recurrent hypercarbic respiratory
   failure (due to ACS from ascites), ESBL UTI
 Infections
 ESBL Klebs UTI and SBP.  Had been on empiric vanco,
   meropenem for ESBL Klebs.  Meropenem continued due to continued low
   blood pressures and Klebs in urine.
   - Continue meropenem for now pending urine senses
   - BPs stable off pressors
 RESPIRATORY FAILURE
 Likely due to extrinsic obstruction, volume
   overload, now improved and extubated.  Did not tolerate BiPAP
   overnight, but did OK with CPAP, will work with respiratory therapy to
   tolerate BiPAP, discussed with patient the benefits.
   - BiPAP trial today, goal overnight BiPAP
   - Minimize sedating medications, monitor mental status
   - Currently stable
CAD/Peripheral Vascular Disease
 s/p recent vascular procedure for
   ischemic L fingers
   - continue ASA, Plavix, statin
 DIABETES MELLITUS, TYPE I
 Insulin as needed
 RENAL FAILURE, CHRONIC
 Off CVVH, plan for HD tomorrow
   - HD tomorrow, follow lytes
 HEPATITIS, CHRONIC VIRAL/CIRRHOSIS
 Has had issues with ascites
   causing extrinsic respiratory distress and decreasing venous return, so
   low threshold for paracentesis.
   - Trending qShift bladder pressures
   - Follow abdominal exam, paracentesis if worsening ascites
   - Continue midodrine, rifaximine, lactulose
Anemia
 Likely secondary to CRI and blood draws, has PVD so will give
   1U PRBCs
   - Transfuse 1 U
   - D/w renal re Epo
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 Fentanyl boluses PRN
   Plan for family meeting with patient today (see separate note) to
   discuss multiorgan failure with cycle of dependence on vent, ICU
   support for HD in setting of hypotension, refractory ascites.
   ICU Care
   Nutrition: Renal diet
   Glycemic Control:  Stable
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
 assess if functioning
   Arterial Line - [**2111-1-29**] 02:27 PM
 no other means of following BP as
   now place for cuff
   Multi Lumen - [**2111-1-29**] 02:27 PM
 try to d/c if PICC working
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer: Pepcid
   VAP: N/A
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition : MICU for now
   Total time spent: 60 min

2111-02-03 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - family meeting: discussed all of his options, not really much left.
   going to talk to his family re going home with hospice vs doing
   everything.  may need to consider trach then to avoid repeat
   intubations.  will also need to discuss whether peritoneal drain is
   appropriate
   - did not get HD today; will get on Tuesday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-31**] 08:07 PM
   Meropenem - [**2111-2-3**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-2-2**] 10:00 PM
   Fentanyl - [**2111-2-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-3**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 89 (86 - 105) bpm
   BP: 106/54(71) {93/43(59) - 144/81(103)} mmHg
   RR: 10 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
   Height: 69 Inch
    Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  1,616 mL
                                                                    295 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    641 mL
                                                                    175 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,416 mL
                                                                    295 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, CPAP mask
   Ventilator mode: Standby
   Vt (Spontaneous): 370 (370 - 370) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 4 cmH2O
   FiO2: 35%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.44/44/66/29/4
   Ve: 6.7 L/min
   PaO2 / FiO2: 189
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   337 K/uL
   9.7 g/dL
   131 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   10 mg/dL
   101 mEq/L
   139 mEq/L
   30.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2111-1-31**]  10:49 PM
                             [**2111-2-1**]  03:45 AM
                             [**2111-2-1**]  04:18 AM
                             [**2111-2-1**]  10:09 AM
                             [**2111-2-1**]  02:52 PM
                             [**2111-2-1**]  04:29 PM
                             [**2111-2-2**]  03:10 AM
                             [**2111-2-2**]  03:20 AM
                             [**2111-2-3**]  03:32 AM
                             [**2111-2-3**]  03:48 AM
   WBC
   6.0
   4.9
   7.0
   Hct
   23.6
   24.7
   30.6
   Plt
   194
   279
   337
   Cr
   0.7
   1.0
   1.8
   TCO2
   33
   33
   32
   31
   32
   33
   31
   Glucose
   105
   97
   131
   Other labs: PT / PTT / INR:12.6/35.1/1.1, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:[**9-6**], Alk Phos / T Bili:57/0.4, Amylase
   / Lipase:17/, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:20.6 %,
   Mono:6.9 %, Eos:9.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   LDH:149 IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR:  Lung volumes are maintained, despite persistent severe
   basal atelectasis on the left. There is no pneumothorax or pleural
   effusion. Moderate
   cardiomegaly is unchanged. Dual-channel central venous dialysis
   catheter ends
   in the right atrium and low SVC.
   Microbiology: All Culutures NGTD; kleb ucx w/ sensitivites pending
   Assessment and Plan
   Mr. [**Known lastname 7614**] is a 55 year-old man with HCV cirrhosis, ESRD, DM, CAD s/p
   perioperative MI and PVD who was admitted for worsening PVD, underwent
   left brachial to radial bypass on [**2111-1-12**] complicated by perioperative
   MI, was transferred to medicine of comorbidities, and is now
   transferred to MICU for management of hypotension and urosepsis.
   # Respiratory failure:  Initially intubated for hypercapneic resp
   failure in setting of somnolence (missed cpap while inpatient and
   started on gabapentin) and sepsis.  Improved with 1.6L paracentesis and
   extubated on [**2111-1-27**].  Reintubated again on [**2111-1-29**] in setting of
   hypercapnea, concern for worsening sepsis vs oversedation after
   restarting ms contin.  Resp dynamics also aggravated by large abdomen,
   pleural effusions, muscular weakness from critical illness, and
   underlying lung disease from smoking history.  Removed 1L + 2L
   paracentesis on [**1-29**] and another 5L on [**1-31**].
   - Vt have improved post para, and MV also improved.  Now successfully
   extubated
   - bladder pressures qshift
   - avoid sedating meds when extubated; PRN sedation boluses
   - will use CPAP or possible BIPAP overnight; and monitor ascites and
   pre-emptively drain
   # Sepsis/hypotension:  Has urosepsis and positive for SBP on tap on
   [**2111-1-23**] prior to transfer.  BP more stable now.  Repeat urine culture
   from [**1-29**] with kleb
   - maintain MAPs > 60, SVO2 > 70%
   - cont meropenem, needs 7 day course (last day [**2111-1-31**])- will continue
   meropenem for now until the culture sensitivities available; also on
   vanc- will keep vanco on for one more day, if all cultures still no
   GPC, vanc stopped [**2-1**]
   - consider linezolid if decompensates given history of VRE
   - f/u cx data- ask micro to get sensitivities on [**1-29**] urine culture in
   case meropenem resistant
   - restarted on midodrine 5 mg TID
   # Anemia:  likely in setting of multiple blood draws and procedures on
   [**2111-1-29**].  Has ACI.
   - [**Hospital1 **] Hct
   - guaiac stools- positive
   - transfuse yesterday w/ appropriate response
   # PVD/Left brachial to radial bypass/Right 4th PIP osteomyelitis:  Will
   not use this graft for ABGs per discussion with surgery.  Also with R
   BKA and L AKA.
   - vascular recs
   - fenatyl for pain control, will address w/ goals of care
   # HCV cirrhosis/Liver mass:  Has cirrhosis and ascites with 4L tap on
   [**1-13**] associated with hypotension and NSTEMI.  History of HCV treatment
   at [**Hospital1 12**].  1.8 cm hypoechoic liver lesion on US [**2110-1-20**] concerning for
   HCC.  Normal AFP; plan for repeat u/s in 3 months per liver.
   - albumin PRN for volume expansion if volume down (CVP/MvO2 as above)
   - lactulose/rifaximin
   # CAD s/ MI: demand ischemia peri-operatively.
   - cont ASA, plavix, statin
   # ESRD: Last HD on [**2111-1-21**], on qMWF schedule.
   - CVVH stopped yesterday; HD tomorrow
   - renal recs
   ICU Care
   Nutrition:
   Comments: Low sodium , Diabetic/Consistent Carbohydrate
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code; will continue to address w/ patinet
   Disposition:

2111-02-03 10:47:00 Physician Attending Progress Note
Chief Complaint: septic shock and hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   55 yo man with Hep C cirrhosis and recurrent ascites, ESRD on HD, CAD
   with ischemic CM, PVD sp bilateral BKA admitted to ICU with SBP and
   ESBL klebsiella UTI and septic shock now resolved.
   24 Hour Events:
   -repeat family meeting yesterday to discuss goals of care.  Patient
   currently still full code.
   -getting HD today
   -received 1U PRBC yesterday for Hct 24.6
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2111-1-31**] 08:07 PM
   Meropenem - [**2111-2-3**] 08:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-2-2**] 10:00 PM
   Fentanyl - [**2111-2-3**] 08:37 AM
   Other medications:
   Simvastatin
   Nephrocaps
   Lidocaine patch
   Plavix 75 daily
   RISS
   ASA 81 daily
   Lactulose TID
   Meropenem 500mg IV q8hr
   Pepcid
   Rifaximin 400 TID
   Midodrin 5mg TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-2-3**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**13**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 94 (86 - 105) bpm
   BP: 117/65(81) {93/43(59) - 144/81(103)} mmHg
   RR: 20 (10 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 75 kg
   Height: 69 Inch
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  1,616 mL
                                                                    544 mL
   PO:
                                                                    600 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    641 mL
                                                                    304 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                    200 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,416 mL
                                                                    544 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 370 (370 - 370) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 4 cmH2O
   FiO2: 35%
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.44/44/66/29/4
   Ve: 6.7 L/min
   PaO2 / FiO2: 189
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: clear anteriorly
   Abd: +BS.  Distended, soft
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   337 K/uL
   131 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.9 mEq/L
   10 mg/dL
   101 mEq/L
   139 mEq/L
   30.6 %
   7.0 K/uL
        [image002.jpg]
                             [**2111-1-31**]  10:49 PM
                             [**2111-2-1**]  03:45 AM
                             [**2111-2-1**]  04:18 AM
                             [**2111-2-1**]  10:09 AM
                             [**2111-2-1**]  02:52 PM
                             [**2111-2-1**]  04:29 PM
                             [**2111-2-2**]  03:10 AM
                             [**2111-2-2**]  03:20 AM
                             [**2111-2-3**]  03:32 AM
                             [**2111-2-3**]  03:48 AM
   WBC
   6.0
   4.9
   7.0
   Hct
   23.6
   24.7
   30.6
   Plt
   194
   279
   337
   Cr
   0.7
   1.0
   1.8
   TCO2
   33
   33
   32
   31
   32
   33
   31
   Glucose
   105
   97
   131
   Other labs: PT / PTT / INR:12.6/35.1/1.1, CK / CKMB /
   Troponin-T:60//1.56, ALT / AST:[**9-6**], Alk Phos / T Bili:57/0.4, Amylase
   / Lipase:17/, Differential-Neuts:62.8 %, Band:0.0 %, Lymph:20.6 %,
   Mono:6.9 %, Eos:9.4 %, Lactic Acid:0.8 mmol/L, Albumin:3.2 g/dL,
   LDH:149 IU/L, Ca++:9.1 mg/dL, Mg++:2.5 mg/dL, PO4:2.7 mg/dL
   Microbiology: urine [**1-29**]: Klebsiella, sensitivities pending
   Assessment and Plan
   Issues: severe ischemic cardiomyopathy, ESLD, ESRD, multiorgan failure,
   abdominal compartment syndrome, recurrent hypercarbic respiratory
   failure (due to ACS from ascites), ESBL UTI
septic shock now resolved
   -will finish 7 day course of meropenem (dating from foley change [**1-29**])
   -await sensitivities from Klebsiella in urine culture [**1-29**]
   -continue midodrine 5mg TID for blood pressure support
   -bladder pressures rising again, may need to consider repeat
   therapeutic paracentesis
hypercarbic respiratory failure
   -has done well on auto-set since extubation.  Will continue
   prophylactically
   -minimize opiate use given recurrent hypercarbia and end stage renal
   and liver failure
   -high bladder pressures contribute to restrictive lung disease and
   hypercarbia and needs to be monitored
   -will transition fentanyl IV to low dose dilaudid and monitor carefully
   for hypercarbia
CAD/Peripheral Vascular Disease
 s/p recent vascular procedure for
   ischemic L fingers
   - continue ASA, Plavix, statin
 RENAL FAILURE, CHRONIC
   -tolerating HD at this time with stable blood pressure
 HEPATITIS, CHRONIC VIRAL/CIRRHOSIS
 Has had issues with ascites
   causing extrinsic respiratory distress and decreasing venous return, so
   low threshold for paracentesis.
   - Trending qShift bladder pressures
   - Follow abdominal exam, paracentesis if worsening ascites
   - Continue midodrine, rifaximin, lactulose
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  RISS
   Lines:
   Dialysis Catheter - [**2111-1-23**] 07:45 PM
   PICC Line - [**2111-1-28**] 10:44 AM
   Arterial Line - [**2111-1-29**] 02:27 PM
   Multi Lumen - [**2111-1-29**] 02:27 PM.  Will remove triple lumen today.
   Prophylaxis:
   DVT: heparin SQ
   Stress ulcer: will stop famotidine
   VAP: not needed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : If he tolerates HD will transfer to floor
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient and agree substantially with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, remains extubated and without any new complaints
   T  37  P  94  BP 117/65  RR 20  Sat: 100%
   Awake, alert NAD
   Chest: CTA bilat
   Heart: S1 S2 reg
   Abd: soft
   Labs: See above
   Assessment:
   1)       Respiratory Failure
 resolved
   2)       Sepsis
 resolving
   3)       ESRD
   4)       ESLD
   5)       CAD/Cardiomyopathy
   Plan:
   Hemodialysis today - assuming he tolerates without incident, will
   transfer to the floor
   Time Spent: 25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2111-2-3**] 06:25 PM ------